US09302991B2
<Step-4>:2-(chloromethyl)-6-(2,2,2-trifluoroethoxy)pyridine
A mixture of (6-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol (0.32 g, 1.55 mmol, Step-3), thionyl chloride (0.23 mL, 3.10 mmol) in dichloromethane (16 mL) is stirred at room temperature for 1 hour. The organic solvent is concentrated under reduced pressure and dried to give 0.35 g (>99% yield) of the title compound as yellow oil. This material is used for the next reaction (Step-5) without further purification.

reactant | (6-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol | 1.55 mmol, 0.32 g | FC(COC1=CC=CC(=N1)CO)(F)F | C8H8F3NO2
reactant | thionyl chloride | 3.10 mmol, 0.23 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 2-(chloromethyl)-6-(2,2,2-trifluoroethoxy)pyridine | 0.35 g, >99% yield | ClCC1=NC(=CC=C1)OCC(F)(F)F | C8H7ClF3NO
